US05010102
5-[2-(4-Quinolinyl)ethenyl]-2,2-dimethyl-3(2H)-furanone
To a solution of 4-quinolinecarboxaldehyde (2.8 g, 17.8 mM) and 2,2,5-trimethyl-3(2H)-furanone (1.5 g, 11.9 mM) in ethanol (100 mL), was added 1N aqueous sodium hydroxide (1.2 mL, 1.2 mM). After the reaction solution was stirred for 4 hours, saturated aqueous sodium chloride (400 mL) was added. The aqueous layer was extracted with diethyl ether (3×100 mL). The combined ethereal extracts were washed with saturated aqueous sodium chloride (50 mL), dried over MgSO4, filtered and concentrated to give a brown oil. The crude product was purified by column chromatography (silica gel, pet. ether-ethyl acetate) to yield a yellow crystalline solid (1.2 g, 32% yield), m.p. 117°-118° C.

reactant | 4-quinolinecarboxaldehyde | 17.8 mM, 2.8 g | N1=CC=C(C2=CC=CC=C12)C=O | C10H7NO
reactant | 2,2,5-trimethyl-3(2H)-furanone | 11.9 mM, 1.5 g | CC1(OC(=CC1=O)C)C | C7H10O2
reactant | sodium hydroxide | 1N, 1.2 mL | [OH-].[Na+]
reactant | sodium chloride | 400 mL | [Cl-].[Na+]
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 5-[2-(4-Quinolinyl)ethenyl]-2,2-dimethyl-3(2H)-furanone | 1.2 g, 32% yield | N1=CC=C(C2=CC=CC=C12)C=CC1=CC(C(O1)(C)C)=O | C17H15NO2
